Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.3514898791400025
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:10]#[C:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]1=[C:6]([H:7])[C:8]([H:9])[C:10]1,0.8188013709299999
[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.49568737326
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.16186977336
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.76079618897
[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-0.65371226218
[H:1][C:2]#[C:3][C:4]1[O:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4](=[O:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-1.0923676603
[O:1]=[C:2][C@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[H:11].[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10],3.93049748923
[H:1][C:2]#[C:3][C@:4]([O:5][H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:5][H:6],2.46053839027
[C:1].[C:2](=[C:3](\[H:4])[O:5][O:6])\[C:7]([H:8])([H:9])[H:10]>>[C:1]/[C:2](=[C:3](\[H:4])[O:5][O:6])[C:7]([H:8])([H:9])[H:10],-5.518744943200001
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-5.9869786884500025
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8],7.65143851374
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[O:8])[H:9]>>[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[C:7](=[O:8])[H:9],-1.17513254759
[H:1][C:2]([H:3])=[C:4][C:11]([C:6](=[O:5])[C:7]([H:8])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]1[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],0.0465856634401
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],4.56580684854
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-8.04038838
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:10][H:11].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.2561780209099975
[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],0.190071066441
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3],2.8328330815900005
[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.64353566218
[O:1]=[C:2]1[C:3][O:4][C:5]([H:6])([H:7])[C:8]1[H:9]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9],3.02737088213
[C:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7],2.14251220172
[C:7](=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-1.87999695308
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:4],1.70622654796
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])([H:7])[C@:8]1([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.33629162
[C:1][C:2]([H:3])([H:4])[C:5][O:8][H:9].[C:6]#[C:7]>>[C:1][C:2]([H:3])([H:4])[C:5]([C:6]#[C:7])[O:8][H:9],-6.9153451886
[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.67281666436
[C:6]=[C:7]([H:8])[H:9].[H:1][O:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.339419585340003
